US06833421B1
0.81 g (1.18 mmol) (E)-2-hydroxy-5-[6-[2-methoxy-4-(methoxycarbonylvinyl)phenoxy]oxyhexyl]benzoic acid 11-(2-methylacryloyloxy)undecyl ester, 0.414 g (1.18 mmol) 4-(6-hydroxyhexyloxy)-3-methoxycinnamic acid methyl ester and 0.31 ml (1.24 mmol) of tributylphosphine were dissolved in 10 ml of tetrahydrofuran to which a mixture of 0.313 g (1.24 mmol) of 1,1′-(azodicarbonyl)dipiperidine and 5 ml tetrahydrofuran was subsequently added in a dropwise fashion over a period of 1 hour. The mixture was allowed to react for 18 hours at room temperature. The reaction mixture was then partitioned between ethyl acetate and water, the organic phase was washed with repeatedly with saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated by evaporation. Chromatography of the crude product on 120 g of silica gel using toluene:ethyl acetate 4:1 and crystallisation form tert-butyl methyl ether yielded 0.63 g (62%) (E,E)-5-[6-[2-methoxy-4-(methoxycarbonylvinyl)phenoxy]oxyhexyl]-2-[6-[3-(3-methoxy-4-butoxyphenyl)acryloyloxy]oxyhexyl]benzoic acid 11-(2-methylacryloyloxy)undecyl ester as white crystals.

reactant | (E)-2-hydroxy-5-[6-[2-methoxy-4-(methoxycarbonylvinyl)phenoxy]oxyhexyl]benzoic acid 11-(2-methylacryloyloxy)undecyl ester | 1.18 mmol, 0.81 g | CC(C(=O)OCCCCCCCCCCCOC(C1=C(C=CC(=C1)CCCCCCOOC1=C(C=C(C=C1)\C=C\C(=O)OC)OC)O)=O)=C | C39H54O10
reactant | 4-(6-hydroxyhexyloxy)-3-methoxycinnamic acid methyl ester | 1.18 mmol, 0.414 g | COC(C=CC1=CC(=C(C=C1)OCCCCCCO)OC)=O | C17H24O5
reactant | tributylphosphine | 1.24 mmol, 0.31 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.24 mmol, 0.313 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (E,E)-5-[6-[2-methoxy-4-(methoxycarbonylvinyl)phenoxy]oxyhexyl]-2-[6-[3-(3-methoxy-4-butoxyphenyl)acryloyloxy]oxyhexyl]benzoic acid 11-(2-methylacryloyloxy)undecyl ester | 0.63 g, 62% | CC(C(=O)OCCCCCCCCCCCOC(C1=C(C=CC(=C1)CCCCCCOOC1=C(C=C(C=C1)\C=C\C(=O)OC)OC)CCCCCCOOC(\C=C\C1=CC(=C(C=C1)OCCCC)OC)=O)=O)=C | C59H82O14
